US04612317
Ethyl (3S)-3-hydroxymethyl-1,2,3,4-tetrahydro-β-carboline-2-carbodithioate:
In the same manner as described in Example 2 by using (3S)-3-hydroxymethyl-1,2,3,4-tetrahydro-β-carboline (2.02 g), triethylamine (1.52 g), CS2 (1.14 g), ethyl iodide (2.34 g), ethanol (25 ml) and water (5 ml), there is prepared the title compound (2.0 g, 65%) as colorless needles, m.p. 74°-76° C. (recrystallized from ethanol), [α]D20 +146.0° (c=1, methanol). NMR (CDCl3, δ): 1.35 (t, J=7.5 Hz, 3H, CSSCH2CH3), 3.36 (q, J=7.5 Hz, 2H, CSSCH2CH3), Mass m/e: 306 (M+), 244 (M+ -thioethanol).

reactant | (3S)-3-hydroxymethyl-1,2,3,4-tetrahydro-β-carboline | 2.02 g | OC[C@H]1NCC=2NC3=CC=CC=C3C2C1 | C12H14N2O
reactant | triethylamine | 1.52 g | C(C)N(CC)CC | C6H15N
reactant | CS2 | 1.14 g | C(=S)=S | CS2
reactant | ethyl iodide | 2.34 g | C(C)I | C2H5I
solvent | water | 5 ml | O | H2O
solvent | ethanol | 25 ml | C(C)O | C2H6O
product | Ethyl (3S)-3-hydroxymethyl-1,2,3,4-tetrahydro-β-carboline-2-carbodithioate | OC[C@H]1N(CC=2NC3=CC=CC=C3C2C1)C(=S)SCC | C15H18N2OS2
